US04471117
A mixture of 5.26 parts of 8-ethyl-3,4-dihydro-7-nitro-2H-pyrimido[2,1-b]benzothiazole and 100 parts of acetic acid is hydrogenated at normal pressure and at room temperature with 1 part of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is acidified with 2-propanol, saturated with gaseous hydrogen chloride. The precipitated product is filtered off and dissolved in 200 parts of water. The solution is alkalized with ammonium hydroxide. The precipitated product is filtered off, washed with water and crystallized from 2-propanol, yielding 2.2 parts of 8-ethyl-3,4-dihydro-2H-pyrimido[2,1-b]benzothiazol-7-amine; mp. 209.9° C.

reactant | 8-ethyl-3,4-dihydro-7-nitro-2H-pyrimido[2,1-b]benzothiazole | C(C)C1=CC2=C(N3C(S2)=NCCC3)C=C1[N+](=O)[O-] | C12H13N3O2S
reactant | hydrogen | [H][H] | H2
catalyst | platinum-on-charcoal | [Pt] | Pt
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-ethyl-3,4-dihydro-2H-pyrimido[2,1-b]benzothiazol-7-amine | C(C)C1=CC2=C(N3C(S2)=NCCC3)C=C1N | C12H15N3S
